US05747516
Step C: Preparation of 2,4-Dihydro-5-methoxy-2-methy-4-(2-methylphenyl)-3H-1,2,4-triazol-3-one
8.25 g 5-chloro-2,4-dihydro-2-methyl-4-(2-methylphenyl)-3H-1,2,4-triazol-3-one was dissolved in 80 mL 1:1 dimethoxyethane/methanol under N2. 14.0 mL sodium methoxide (30% solution in methanol) was added and the solution was heated at reflux for 3 h. The mixture was allowed to cool, diluted with ethyl acetate, washed with water, then saturated aqueous NaCl. The combined organic extracts were dried (MgSO4), filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography (50-70% ethyl acetate/hexanes as eluent) and triturated with 50% diethylether/hexanes to afford 6.7 g of the title compound of Step C (95% pure). 1H NMR (CDCl3) δ7.35-7.27 (m,3H), 7.18 (d,1H), 3.94 (s,3H), 3.46 (s,3H), 2.22 (s,3H).

reactant | 5-chloro-2,4-dihydro-2-methyl-4-(2-methylphenyl)-3H-1,2,4-triazol-3-one | 8.25 g | ClC=1N(C(N(N1)C)=O)C1=C(C=CC=C1)C | C10H10ClN3O
reactant | sodium methoxide | 14.0 mL | C[O-].[Na+]
solvent | dimethoxyethane methanol | C(OC)COC.CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,4-Dihydro-5-methoxy-2-methy-4-(2-methylphenyl)-3H-1,2,4-triazol-3-one | 6.7 g, 95% | COC=1N(C(N(N1)C)=O)C1=C(C=CC=C1)C | C11H13N3O2
